US07091220B2
[(5-Benzyloxy-1H-indol-3-yl)-o-tolylmethyl]-dimethylamine
The preparation was carried out in accordance with general synthesis instructions 4 from 5-benzyloxy-1H-indole and dimethyl-(2-methyl-benzylidene)-ammonium chloride, which had been prepared in accordance with example 32.

reactant | 5-benzyloxy-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | dimethyl-(2-methyl-benzylidene)-ammonium chloride | [Cl-].C[N+](=CC1=C(C=CC=C1)C)C
product | [(5-Benzyloxy-1H-indol-3-yl)-o-tolylmethyl]-dimethylamine | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C(C1=C(C=CC=C1)C)N(C)C | C25H26N2O
